* LED SPICE subcircuit
* LED model based on diode with color-specific forward voltages
*
* The forward voltage is controlled by the IS (saturation current) parameter
* Lower IS values result in higher forward voltages
* Typical LED has N=2.0 (higher than regular diode)
*
* Nodes:
*   1 - Anode
*   2 - Cathode

* Red LED - ~1.8V forward voltage
.SUBCKT LED_Red 1 2 PARAMS: IS=1e-16 N=2.0 RS=1 CJO=10p
D1 1 2 LED_RED_MODEL
.MODEL LED_RED_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_Red

* Green LED - ~2.2V forward voltage  
.SUBCKT LED_Green 1 2 PARAMS: IS=1e-18 N=2.0 RS=1 CJO=10p
D1 1 2 LED_GREEN_MODEL
.MODEL LED_GREEN_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_Green

* Blue LED - ~3.2V forward voltage
.SUBCKT LED_Blue 1 2 PARAMS: IS=1e-20 N=2.0 RS=1 CJO=10p
D1 1 2 LED_BLUE_MODEL
.MODEL LED_BLUE_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_Blue

* Yellow LED - ~2.0V forward voltage
.SUBCKT LED_Yellow 1 2 PARAMS: IS=1e-17 N=2.0 RS=1 CJO=10p
D1 1 2 LED_YELLOW_MODEL
.MODEL LED_YELLOW_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_Yellow

* White LED - ~3.2V forward voltage (similar to blue)
.SUBCKT LED_White 1 2 PARAMS: IS=1e-20 N=2.0 RS=1 CJO=10p
D1 1 2 LED_WHITE_MODEL
.MODEL LED_WHITE_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_White

* Amber LED - ~2.1V forward voltage
.SUBCKT LED_Amber 1 2 PARAMS: IS=5e-18 N=2.0 RS=1 CJO=10p
D1 1 2 LED_AMBER_MODEL
.MODEL LED_AMBER_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_Amber

* Orange LED - ~2.0V forward voltage
.SUBCKT LED_Orange 1 2 PARAMS: IS=1e-17 N=2.0 RS=1 CJO=10p
D1 1 2 LED_ORANGE_MODEL
.MODEL LED_ORANGE_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_Orange

* Pink LED - ~2.8V forward voltage
.SUBCKT LED_Pink 1 2 PARAMS: IS=1e-19 N=2.0 RS=1 CJO=10p
D1 1 2 LED_PINK_MODEL
.MODEL LED_PINK_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_Pink

* UV LED - ~3.5V forward voltage
.SUBCKT LED_UV 1 2 PARAMS: IS=1e-21 N=2.0 RS=1 CJO=10p
D1 1 2 LED_UV_MODEL
.MODEL LED_UV_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_UV

* RGB LED - uses blue LED characteristics (highest voltage)
.SUBCKT LED_RGB 1 2 PARAMS: IS=1e-20 N=2.0 RS=1 CJO=10p
D1 1 2 LED_RGB_MODEL
.MODEL LED_RGB_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_RGB

* Generic LED - default characteristics (~2.0V)
.SUBCKT LED_Other 1 2 PARAMS: IS=1e-17 N=2.0 RS=1 CJO=10p
D1 1 2 LED_OTHER_MODEL
.MODEL LED_OTHER_MODEL D(IS={IS} N={N} RS={RS} CJO={CJO})
.ENDS LED_Other
